US06211199B1
107.4.1 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine
Combine 1-(3,4,5-trimethoxybenzyl)-2-oxopyrrolidine (0.98 g, 3.70 mmol) and tetrahydrofuran (10 mL). Cool to −78° C. using a dry-ice/acetone bath. Add a solution of sec-butyl lithium (2.99 mL, 1.3 M in hexane, 3.88 mmol). After 30 minutes, add 4-fluorobenzyl bromide (0.70 g, 3.70 mmol). After the addition is complete, warm to ambient temperature. After 2 hours, add water and extract three times with ethyl acetate. Dry the combined organic layers over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with ethyl acetate/hexane 1/1 to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzyl)-2-oxopyrrolidine | 3.70 mmol, 0.98 g | COC=1C=C(CN2C(CCC2)=O)C=C(C1OC)OC | C14H19NO4
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | sec-butyl lithium | 3.88 mmol, 1.3 M, 2.99 mL | C(C)(CC)[Li]
reactant | 4-fluorobenzyl bromide | 3.70 mmol, 0.70 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | O | H2O
product | 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)CC2=CC=C(C=C2)F)=O)C=C(C1OC)OC | C21H24FNO4
